US07544438B2
The CPVK3 was synthesized referring to a document (Salmon-Chemin L., Buisine E., Yardley V., Kohler S., Debreu M. A., Landry V., Sergheraert C., Croft S. L., Krauth-Siegel R. L., and Davioud-Charvet E., J. Med. Chem., 2001, 44, 548-565). 2-methyl-1,4-naphthoquinone, glutaric acid, and AgNO3 were suspended in a 30% aqueous CH3CN solution, heated, and stirred to dissolve completely. Then, a 30% aqueous CH3CN solution of (NH4)2S2O8 was added dropwise in 60 minutes. After completing the dropwise addition, the mixture was stirred at 65° C. for 5 minutes as it was. Cooling of the reaction mixture to room temperature resulted in precipitation of a yellow brown solid. Water and ethyl acetate were added to the reaction mixture, and an organic layer was washed with water using a separating funnel. Further, the organic layer was washed with water. A 2N-aqueous solution of sodium bicarbonate was added to the organic layer, and a sodium salt of a target compound was extracted to an aqueous layer. Then, the aqueous layer was adjusted to a pH of 2 or less using 37% hydrochloric acid, and a precipitated solid was collected by filtration. The solid was sufficiently washed with cool water, and dried under reduced pressure, to thereby obtain a yellow brown powder 2-(3-carboxypropyl)-3-methyl-1,4-naphthoquinone.

reactant | 2-methyl-1,4-naphthoquinone | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | glutaric acid | C(CCCC(=O)O)(=O)O | C5H8O4
reactant | CH3CN | CC#N | C2H3N
reactant | Water | O | H2O
catalyst | AgNO3 | [N+](=O)([O-])[O-].[Ag+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-carboxypropyl)-3-methyl-1,4-naphthoquinone | C(=O)(O)CCCC=1C(C2=CC=CC=C2C(C1C)=O)=O | C15H14O4
